US07947689B2
3,4-Dimethyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine
In close analogy to the procedure described above, 3,4-Dimethyl-6,7-dihydro-thieno[3,2-c]pyridine is reacted with sodium triacetoxyborohydride to provide the title compound.

reactant | 3,4-Dimethyl-6,7-dihydro-thieno[3,2-c]pyridine | CC1=CSC2=C1C(=NCC2)C | C9H11NS
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 3,4-Dimethyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | Yield: 8% | CC1=CSC2=C1C(NCC2)C | C9H13NS
